US07071199B1
A mixture of 1-cyclopentyl-1H-pyrrolo[2,3-d]pyridazin-4-amine (0.595 mg, approx. 60% pure, 1.76 mmol) in dichloromethane (100 mL) was treated with a solution of dichloromethane (5 mL) containing bromine (0.5 g, 2.95 mmol) over the course of 1.25 hours. The mixture was stirred an additional one hour then another portion of dichloromethane (3 mL) containing bromine (0.3 g) was added. The mixture was stirred for 2.5 hours then treated with 5 mL 5N aqueous sodium hydroxide and 25 mL water. The layers were separated and the organic layer was concentrated under reduced pressure to give a residue which was purified by reverse phase preparative HPLC to give 3-bromo-1-cyclopentyl-1H-pyrrolo[2,3-d]pyridazin-4-amine (168 mg, 35%); 1H NMR (DMSO-d6, 400 MHz) δ 8.94 (s, 1H), 7.79 (s, 1H), 6.11 (bs, 2H), 4.94 (m, 1H), 2.12 (m, 2H), 1.83 (m, 4H), 1.67 (m, 2H); 5%–100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 11.25 min.; LC/MS: MH+ 282.8.

reactant | 1-cyclopentyl-1H-pyrrolo[2,3-d]pyridazin-4-amine | 1.76 mmol, 0.595 mg | C1(CCCC1)N1C=CC=2C1=CN=NC2N | C11H14N4
reactant | bromine | 2.95 mmol, 0.5 g | BrBr | Br2
reactant | bromine | 0.3 g | BrBr | Br2
reactant | sodium hydroxide | 5N, 5 mL | [OH-].[Na+]
reactant | water | 25 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-bromo-1-cyclopentyl-1H-pyrrolo[2,3-d]pyridazin-4-amine | 168 mg, 35% | BrC1=CN(C2=CN=NC(=C21)N)C2CCCC2 | C11H13BrN4
